US04639365
Step 1: Synthesis of N,N',N"-tri(p-toluenesulfonyl)diethylene-triamine
A solution of p-toluenesulfonyl chloride (191 g) in ether (500 ml) was added drop by drop to a solution of diethylene triamine (38 ml) and sodium hydroxide (40 g) in water (250 ml). The mixture was stirred for one hour at room temperature. A white precipitate was formed and was collected by filtration, washed with water, and then recrystalized using methanol. (Acetonitrile could also be used). The melting point of the recrystalized precipitate was 174° to 175° C. The yield was 90%, and should always be above 70%.

reactant | p-toluenesulfonyl chloride | 191 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
reactant | diethylene triamine | 38 ml | NCCNCCN | C4H13N3
reactant | sodium hydroxide | 40 g | [OH-].[Na+]
solvent | ether | 500 ml | CCOCC | C4H10O
solvent | water | 250 ml | O | H2O
product | N,N',N"-tri(p-toluenesulfonyl)diethylene-triamine | yield was 90% | C1(=CC=C(C=C1)S(=O)(=O)NCCN(CCNS(=O)(=O)C1=CC=C(C=C1)C)S(=O)(=O)C1=CC=C(C=C1)C)C | C25H31N3O6S3
